US08044213B2
A mixture of 0.222 g (1.2 mmole) of 3-fluoro-4-nitrobenzoic acid, 0.30 g (1.2 mmole) of 2-amino-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (V.2), 1.5 g (4.6 mmole) of cesium carbonate and 40 mL of dimethylformamide was stirred at 60 degrees for 16 hours. The mixture was cooled and poured into water. The dark mixture was made acidic by addition of hydrochloric acid, and the resulting orange precipitate was collected by filtration, washing, water to give 0.281 g of 3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazol-2-ylamino]-4-nitro-benzoic acid (VI.10).

reactant | 3-fluoro-4-nitrobenzoic acid | 1.2 mmole, 0.222 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | 2-amino-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 1.2 mmole, 0.30 g | NC=1SC(=C(N1)C1=CC(=CC=C1)Cl)C(=O)N | C10H8ClN3OS
reactant | cesium carbonate | 4.6 mmole, 1.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazol-2-ylamino]-4-nitro-benzoic acid | 0.281 g | C(N)(=O)C1=C(N=C(S1)NC=1C=C(C(=O)O)C=CC1[N+](=O)[O-])C1=CC(=CC=C1)Cl | C17H11ClN4O5S
